US08859580B2
1-[(6R,10S)-2-Cyclopropyl-5,6,7,8,9,10-hexahydro-10,12,12-trimethyl-6,10-methano-oxazolo[4,5-i][3]benzazocin-7-yl]-2,2,2-trifluoro-ethanone
A solution of cyclopropanecarboxylic acid [(2R,6S)-9-hydroxy-6,11,11-trimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl]-amide (0.62 g) and pyridinium p-toluenesulfonate (76 mg) in xylene (6 mL) is stirred at reflux temperature for 5 h. After cooling to room temperature, the solution is concentrated, ethyl acetate is added to the residue, and the resulting mixture is washed with water and brine. The organic solution is dried (MgSO4) and the solvent is evaporated to afford the title compound.

reactant | cyclopropanecarboxylic acid [(2R,6S)-9-hydroxy-6,11,11-trimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl]-amide | 0.62 g | OC=1C(=CC2=C(C[C@H]3N(CC[C@@]2(C3(C)C)C)C(C(F)(F)F)=O)C1)NC(=O)C1CC1 | C21H25F3N2O3
reactant | pyridinium p-toluenesulfonate | 76 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 6 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-[(6R,10S)-2-Cyclopropyl-5,6,7,8,9,10-hexahydro-10,12,12-trimethyl-6,10-methano-oxazolo[4,5-i][3]benzazocin-7-yl]-2,2,2-trifluoro-ethanone | C1(CC1)C=1OC2=CC3=C([C@@]4(CCN([C@H](C3)C4(C)C)C(C(F)(F)F)=O)C)C=C2N1 | C21H23F3N2O2
